US06818767B2
In analogy to example 6 there was prepared: on reaction of 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol with allyl bromide, whereby the product was isolated as free base, 7-allyloxy-2-methyl-4-pyrrolidin-1-yl-quinoline as a light yellow solid. EI mass spectrum, m/e: 268.2 (M calculated for C17H20N2O: 268).

reactant | 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)O | C14H16N2O
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 7-allyloxy-2-methyl-4-pyrrolidin-1-yl-quinoline | C(C=C)OC1=CC=C2C(=CC(=NC2=C1)C)N1CCCC1 | C17H20N2O
